Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:2]([C:3]([H:4])([H:5])[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[O:1]>>[O:1]=[C:2]([C:3]([H:4])([H:5])[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-8.13847125526
[C:1]#[C:2][O:3][C:4]([H:5])[H:6].[C:7]#[C:8]>>[C:1]#[C:2][O:3][C:4]([H:5])([H:6])[C:7]#[C:8],-4.655011795319999
[C:7]([H:8])[O:9][C:10]([H:11])[H:12].[H:1][O:2][C:3]([H:4])([H:5])[C:6]>>[H:1][O:2][C:3]([H:4])([H:5])/[C:6]=[C:7](\[H:8])[O:9][C:10]([H:11])[H:12],-5.27756239475
[O:1]=[C:2]([O:3][C:4]([H:5])=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:9]([H:10])([H:11])[H:12].[O:1]=[C:2][O:3][C:4]([H:5])=[C:6]([H:7])[H:8],4.29254059951
[H:1][C:2]=[C:3]([H:4])[O:5][C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:3]([H:4])[O:5][C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[H:1][C:2],7.218405397989999
[H:1][C:2][H:3].[O:4]=[C:5]=[C:6]([H:7])[C:8]([H:9])([H:10])[H:11]>>[H:1][C:2]([H:3])[O:4]/[C:5]=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11],-1.63093447114
[H:4].[O:1][O:2][C:3]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14]>>[O:1][O:2][C@@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14],-3.1230935090200003
[H:1][C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]=[C:10]([H:11])[H:12]>>[C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]=[C:10]([H:11])[H:12].[H:1],4.2158102503900015
[H:1][C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][H:13]>>[H:1][C:2]#[C:3][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][H:13].[O:4][H:5],2.81266573455
[H:1][C:2]#[C:3][O:4][C:5]#[C:6].[O:7][H:8]>>[H:1][C:2]#[C:3][O:4][C:5]#[C:6][O:7][H:8],-6.466199872490001
[H:1][O:2][C:3]#[C:4][C:5]([H:6])[C:7]([H:8])=[C:9]([H:10])[H:11]>>[C:7]([H:8])=[C:9]([H:10])[H:11].[H:1][O:2][C:3][C:4]#[C:5][H:6],4.32992469292
[O:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12]>>[H:9].[O:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:10]([H:11])[H:12],2.0034088176
[C:1]#[C:2]/[C:3](=[C:4](\[H:5])[O:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[C:1][C:2]#[C:3][C:8]([H:9])([H:10])[H:11].[C:4]([H:5])[O:6][H:7],4.44711876366
[C:1].[C:2]([O:3][H:4])[C:5](=[C:6])[C:7]([H:8])([H:9])[H:10]>>[C:1]=[C:2]([O:3][H:4])[C:5](=[C:6])[C:7]([H:8])([H:9])[H:10],-5.18195275673
[C:2]([O:3][C:4]([H:5])=[C:6]([H:7])[H:8])[O:9][C:10]([H:11])([H:12])[H:13].[H:1]>>[H:1][C:2]([O:3][C:4]([H:5])=[C:6]([H:7])[H:8])[O:9][C:10]([H:11])([H:12])[H:13],-2.71285750367
[O:1]=[C:2]([C:3][C:4]#[C:5][H:6])[C:7]([H:8])([H:9])[H:10]>>[C:5][H:6].[O:1]=[C:2]([C:3]#[C:4])[C:7]([H:8])([H:9])[H:10],7.693164585710001
[C:11]([H:12])([H:13])[H:14].[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[H:10]>>[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-4.06971102755
[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15].[H:7],1.8005272823299998
[H:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:12].[H:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])/[C:9]=[C:10](\[H:11])[C:13]([H:14])([H:15])[H:16],1.89454050969
[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[O:1]=[C:2][C:3]([H:4])([H:5])[H:6]>>[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-3.6583434761
[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12].[H:1][O:2]>>[H:1][O:2][C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],-5.22647543309
[H:14].[H:1][O:2]/[C:3]([H:4])=[C:5](\[O:6][H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[O:6][H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-4.52852973112
[C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17].[H:1][C:2][C:3]([H:4])([H:5])[H:6]>>[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],-4.6279095261
[H:1][C:2]([H:3])[C:4]([H:5])=[O:6].[O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-0.5831665837510001
[H:11].[H:1][C:2][O:3][C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])[H:10]>>[H:1][C:2][O:3][C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11],-4.054410617059999
[H:1][O:2][C:3][O:4][C:5]([H:6])[C:7]([H:8])([H:9])[H:10]>>[C:7]([H:8])([H:9])[H:10].[H:1][O:2][C:3][O:4][C:5][H:6],4.361890818469998
[C:3]([H:4])#[C:5][C:6]([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:1][O:2]>>[H:1][O:2][C:3]([H:4])=[C:5]=[C:6]([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-4.98075854403
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[O:1]=[C:2][H:3],3.45522743955
